US08304419B2
N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-5-{[2-(dimethylamino)ethyl]oxy}-1H-indole-2-carboxamide
In a 24-well Bohdan block, ethyl 5-hydroxy-1H-indole-2-carboxylate (0.100 g, 0.487 mmol), 2-(dimethylamino)ethanol (0.109 g, 1.22 mmol) and PS-triphenylphosphine (406 mg, 1.22 mmol) were dissolved in THF (1 mL). Di-tert-butyl azodicarboxylate (1.22 M in THF, 1 mL) was added and the block shaken overnight. The reactor block was drained into a second Bohdan block and rinsed with THF. 1 N LiOH (1 mL) was added and the reactor block shaken for 6 hours at RT. 1 N HCl (1 mL) was added and the block was drained into a 24-well plate, rinsed with THF and the solvent evaporated. The residue was dissolved in DMF and filtered to remove salts. To the DMF solution was added 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile (50 mg, 0.161 mmol) followed by HATU (61.1 mg, 0.161 mmol) and DIPEA (30 μL, 0.222 mmol) and the reaction mixture stirred overnight. The resulting solution was diluted to 2 mL with MeOH. Purification was accomplished by Reverse-Phase HPLC (water/acetonitrile with 0.1% TFA) to afford the title compound (0.008 g, 3%) as a glass. 1H NMR (400 MHz, CDCl3): δ ppm 9.28 (s, 1H), 7.31-7.38 (m, 3H), 7.29 (d, 1H), 7.14-7.17 (m, 1H), 7.00-7.04 (m, 2H), 6.96 (dd, 1H), 6.80-6.83 (m, 1H), 6.73 (t, 1H), 4.72 (d, 2H), 4.19 (t, 2H), 3.04 (t, 2H), 2.59 (s, 6H). LCMS m/z 541.1 (M+1).

reactant | ethyl 5-hydroxy-1H-indole-2-carboxylate | 0.487 mmol, 0.100 g | OC=1C=C2C=C(NC2=CC1)C(=O)OCC | C11H11NO3
reactant | 2-(dimethylamino)ethanol | 1.22 mmol, 0.109 g | CN(CCO)C | C4H11NO
reactant | triphenylphosphine | 1.22 mmol, 406 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Di-tert-butyl azodicarboxylate | 1.22 M, 1 mL | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
reactant | 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile | 0.161 mmol, 50 mg | NCC=1C(=C(C(=CC1)Cl)OC=1C=C(C#N)C=C(C1)Cl)F | C14H9Cl2FN2O
reactant | HATU | 0.161 mmol, 61.1 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.222 mmol, 30 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | MeOH | CO | CH4O
solvent | DMF | CN(C)C=O | C3H7NO
product | N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-5-{[2-(dimethylamino)ethyl]oxy}-1H-indole-2-carboxamide | 0.008 g, 3% | ClC1=C(C(=C(C=C1)CNC(=O)C=1NC2=CC=C(C=C2C1)OCCN(C)C)F)OC1=CC(=CC(=C1)C#N)Cl | C27H23Cl2FN4O3
